US06812228B2
Preparation of 6-Methylsulfanyl-3,4-dihydro-isoquinoline (Step H, Scheme 3)
A procedure identical to that described for the preparation of N-[2-(3-methoxy-phenyl)-ethyl]-formamide in Example 1 was followed using N-[2-(3-methylsulfanyl-phenyl)-ethyl]-formamide (6.7 g, 34 mmol) to give the desired product (0.8 g, 13%). MS: 178.1 (M+1+).

reactant | N-[2-(3-methoxy-phenyl)-ethyl]-formamide | COC=1C=C(C=CC1)CCNC=O | C10H13NO2
reactant | N-[2-(3-methylsulfanyl-phenyl)-ethyl]-formamide | 34 mmol, 6.7 g | CSC=1C=C(C=CC1)CCNC=O | C10H13NOS
product | 6-Methylsulfanyl-3,4-dihydro-isoquinoline | 0.8 g, 13% | CSC=1C=C2CCN=CC2=CC1 | C10H11NS
